Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
left leg weakness, falls
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ RH female with a PMHx of
paramedian pontine infarct (___), right-sided lenticulostriate
territory infarct (___), multiple strokes in the right 
posterior
MCA/PCA watershed region (thought to be cardioembolic but no
source identified, ___, followed by Dr. ___, on
Plavix and ASA), hypertension, hyperlipidemia, prior MI, colon
cancer s/p resection and chemotherapy in ___, extensive tobacco
use, recent DM diagnosis, and recent diagnosis of B12 deficiency
who presents with ___ weeks of frequent falls and 4 weeks of 
left
leg weakness. 

The left leg weakness was gradual in onset and began about 4
weeks ago; it has remained relatively stable. She now needs help
getting off a toilet or up off of chairs. The falls occur when
she is pivoting while using her cane, and she has had 5 falls in
the last week including once into her bathtub. Her legs feel 
like
"they get tangled up." She has only landed on her bottom; no
headstrikes or LOC. No prodrome prior to falls. She also has
baseline LUE weakness that remains unchanged since her strokes 
in
___ she has trouble twisting caps and opening jars, but 
she
does not have trouble reaching up. Denies missing Plavix doses.
Missed ___ doses of atorvastatin since starting it.

She has also had urinary and fecal incontinence (3 months per
prior notes; since last stroke in ___ per patient); per
prior notes, she loses control just after getting the urge to
urinate or move her bowels; today, she says she sometimes does
not get the urge to go. She sometimes does not have time to make
it to the bathroom, but this is not the chief reason for
incontinence. Reports 2 days of lower back pain (midline). 
Denies
saddle anesthesia. 

She was seen by her PCP ___ she was noted to be dragging her
left foot on the ground and she was noted to have left ankle
dorsiflexion>plantarflexion, knee flexion/extension, and hip
flexion/extension weakness with more brisk reflexes on that 
side.
Per ED, she was noted to have ___ left hip flexion, 4+ hip
extension, 4+ knee extension, upgoing toes on left, left arm." 

Of note, she last saw Dr. ___ in ___ in clinic. 
At
that time, she was noted to have SCM weakness, mild L pronation
with upward drift, and ___ left deltoid strength. She had brisk
reflexes at left biceps and patella, and her plantar response 
was
mute bilaterally. She also had a broad-based gait with small
steps that was safe. She was continued on Plavix 75mg daily, and
a stronger statin was recommended, but the patient preferred to
stay on rosuvastatin (Crestor).

+:Left facial droop noticed during sleep by daughter one week
which subsequently resolved (date of resolution unknown), per
patient
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus, and hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal numbness and
parasthesiae. 

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No dysuria. Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
- prior paramedian pontine infarct (___) 
- right-sided lenticulostriate territory infarct ___
- Hypertension as per prior medical records(patient denies)
- Dyslipidemia 
- Colon cancer 2/p right colectomy in ___ with prolonged
stuttering course of adjuvant chemotherapy (diagnosed in setting
of GI bleeding)
- Cholecystectomy for chronic cholecystitis and gallstones in
___
- Diverticulosis
- Hemorrhoids

 
Social History:
___
Family History:
Mother had stroke in her ___ or ___.  Her paternal 
grandfather,
father, and brother all had colon cancer.  Sister had ovarian
cancer and has prostate cancer in her family.

 
Physical Exam:
Admission Exam:
Vitals: T: 97.4 P: 65 R: 16  BP: 153/70 SaO2: 97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
NIHSS as above.

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes ___ with
prompting). There was no evidence of apraxia or neglect. No
cortical sensory loss.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: Mild L NLFF.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. Subtle LUE pronation without 
drift.
RUE orbiting around left. No adventitious movements, such as
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5-  5    5    5    5     5  4+   5    5     5-   5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense. ___ errors to proprioception in LLE. No
extinction to DSS. No spinal sensory level. 

-DTRs: brisk diffusely L>R. Left toe upgoing, right downgoing.

-Coordination: Missed target mildly with RUE on FNF. RAM slow
bilaterally. FNF ok. HKS ok. 

-Gait: Dragging left leg when ambulating with some 
circumduction.

******************
Discharge exam:
Vitals: T: 97.4 P: 65 R: 16  BP: 164/70 SaO2: 97%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
NIHSS as above.

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. 
V: Facial sensation intact to light touch.
VII: symmetric
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. Subtle LUE pronation without 
drift.
RUE orbiting around left. No adventitious movements, such as
tremor, noted. No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5-  5    5    5    4     5   5    5    5    ___ 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense. Intact proprioception b/l. No
extinction to DSS. No spinal sensory level. 

-DTRs: brisk diffusely L>R. Left toe upgoing, right downgoing.

-Coordination: Missed target mildly with RUE on FNF. RAM slow
bilaterally. FNF ok. HKS ok. 

-Gait: Dragging left leg but stable with cane

 
Pertinent Results:
___ 01:10PM   GLUCOSE-125* UREA N-9 CREAT-0.9 SODIUM-144 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-26 ANION GAP-17
___ 01:10PM   estGFR-Using this
___ 01:10PM   ALT(SGPT)-18 AST(SGOT)-30 ALK PHOS-97 TOT 
BILI-0.5
___ 01:10PM   ALBUMIN-3.7 CALCIUM-11.2* PHOSPHATE-3.4 
MAGNESIUM-2.3
___ 01:10PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 01:10PM   WBC-9.4 RBC-4.87 HGB-13.4 HCT-41.0 MCV-84 
MCH-27.5 MCHC-32.7 RDW-14.4 RDWSD-44.0
___ 01:10PM   NEUTS-64.6 ___ MONOS-5.8 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-6.06 AbsLymp-2.68 AbsMono-0.54 
AbsEos-0.05 AbsBaso-0.02
___ 01:10PM   PLT COUNT-276

CT head 
IMPRESSION: 
1. Small right caudate hypodensity/lacunar infarct is new from 
___, but 
otherwise appears chronic to possibly subacute, lacunar infarct. 
  Correlate 
with clinical symptoms.  MRI is more sensitive in detecting 
acute ischemia. 
2. Sequelae of prior right frontal lobe infarct and left pontine 
infarct. 
3. Nonspecific bilateral white matter changes are similar the 
prior exam and 
consistent with sequelae of chronic small vessel ischemic 
disease. 
4. No acute intracranial hemorrhage. 
5. Cortical atrophy. 

CXR 
IMPRESSION:  
No focal consolidation to suggest pneumonia.  Possible minimal 
pulmonary 
vascular congestion.  Stable mild cardiomegaly. 

MRI/MRA brain and neck
IMPRESSION: 
1. Substantially motion limited exam. 
2. Punctate, likely subacute infarcts of the right frontal 
periventricular 
white matter, posterior limb of the right internal capsule or 
right thalamus , 
and right periatrial white matter. 
3. Chronic right frontal cortical infarct is again seen.  
Extensive 
supratentorial white matter signal abnormalities, similar to 
prior, 
nonspecific but likely sequela of chronic small vessel ischemic 
disease in 
this age group. 
4. Nondominant left vertebral artery is diminutive and not 
adequately assessed 
on this motion limited exam.  0 
5. Atherosclerosis of the proximal right internal carotid artery 
is again seen 
but could be exaggerated by artifact.  Apparent irregularity of 
the left 
proximal internal carotid artery, of the V2 and V3 segments of 
the right 
vertebral artery, of the left greater than right carotid 
siphons, and of the 
distal M1 and M2 segments of the left middle cerebral artery 
probably 
represents a combination of atherosclerosis and artifacts. 

 
Brief Hospital Course:
___ RH female with a PMHx of paramedian pontine infarct (___), 
right-sided lenticulostriate territory infarct (___), multiple 
strokes in the right posterior MCA/PCA watershed region (thought 
to be cardioembolic but no source identified, ___ 
Plavix and ASA, HTN, HLD, prior MI, colon cancer s/p resection 
and chemotherapy in ___, extensive tobacco use, recent DM 
diagnosis, and recent diagnosis of B12 deficiency presents with 
4 week hx of progressively worsening left leg weakness and 
falls. On exam she had no signs of neuropathy, intact sensation 
to light touch, temperature and Pin Prick as well as intact 
proprioception. CT Head with right caudate hypodensity of 
indeterminate age, but appears subacute/chronic. MRI/MRA brain 
and neck with punctate, likely subacute infarcts of the right 
frontal periventricular white matter, posterior limb of the 
right internal capsule or right thalamus and right periatrial 
white matter. 
Etiology most likely secondary to known intracranial athero seen 
on imaging vs. small vessel disease. Patient already on 
appropriate secondary stroke prophylaxis and thus no changes to 
her medications were made. She was evaluated by physical therapy 
who recommended home ___.
Stroke risk factors: LDL 48, A1C6.6 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =48 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Oxybutynin 5 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  MetFORMIN (Glucophage) 500 mg PO DAILY  
5.  Oxybutynin 5 mg PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were hospitalized due to symptoms of left leg weakness and 
falls resulting from an ACUTE ISCHEMIC STROKE, a condition where 
a blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
HTN
atherosclerotic disease

No changes to your medications were made since ___ are already 
on the appropriate secondary stroke prevention.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___